US08470841B2
42a 4-(6-Isopropoxypyridin-3-ylmethyl)phenol
(4-Hydroxyphenyl)-(6-isopropoxypyridin-3-yl)methanone (300 mg, 1.17 mmol) was dissolved in 15 ml of THF. Following addition of triethylsilane (678 mg, 5.83 mmol) the mixture was stirred at room temperature for 2 days. Following addition of 116 mg of triethylsilane the mixture was stirred at 60° C. for 8 h, concentrated and admixed with ethyl acetate and water, and the organic phase was separated off, concentrated and purified by preparative HPLC (PR18, acetonitrile/water 0.1% TFA). Yield: 52 mg (18%), M+H+: 244.14.

reactant | (4-Hydroxyphenyl)-(6-isopropoxypyridin-3-yl)methanone | 1.17 mmol, 300 mg | OC1=CC=C(C=C1)C(=O)C=1C=NC(=CC1)OC(C)C | C15H15NO3
reactant | triethylsilane | 5.83 mmol, 678 mg | C(C)[SiH](CC)CC | C6H16Si
reactant | triethylsilane | 116 mg | C(C)[SiH](CC)CC | C6H16Si
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 4-(6-Isopropoxypyridin-3-ylmethyl)phenol | C(C)(C)OC1=CC=C(C=N1)CC1=CC=C(C=C1)O | C15H17NO2
